US04723016
The procedure of Example 1 was followed using 2,2-bis(trifluoromethyl)decanoyl fluoride (6.11 g, 19.7 mmol), sodium trimethylsilanolate (2.21 g, 19.7 mmol) and dry ether (20 mL). The product, sodium 2,2-bis(trifluoromethyl)decanoate, was isolated as a waxy solid (5.5 g, 85% yield) by concentrating the filtrate under vacuum: 1H NMR (CDCl3) δ 0.88 (m, CH3, 3H), 1.30 (m, CH2, 12H), 2.10 ppm (m, CH2, 2H); 19F NMR (D2O/acetone) δ -62.0 ppm (brs, CF3,6F). Anal. Calcd. for C12H17F6NaO2 : C, 43.64; H, 5.19; F, 34.52. Found: C, 44.34; H, 5.10; F, 35.58.

reactant | 2,2-bis(trifluoromethyl)decanoyl fluoride | 19.7 mmol, 6.11 g | FC(C(C(=O)F)(CCCCCCCC)C(F)(F)F)(F)F | C12H17F7O
reactant | sodium trimethylsilanolate | 19.7 mmol, 2.21 g | C[Si]([O-])(C)C.[Na+]
solvent | ether | 20 mL | CCOCC | C4H10O
product | sodium 2,2-bis(trifluoromethyl)decanoate | FC(C(C(=O)[O-])(CCCCCCCC)C(F)(F)F)(F)F.[Na+] | InChI=1S/C12H18F6O2.Na/c1-2-3-4-5-6-7-8-10(9(19)20,11(13,14)15)12(16,17)18;/h2-8H2,1H3,(H,19,20);/q;+1/p-1
